US07935849B2
In analogy to the procedure and apparatus described in Example 1 but employing a 0.5% (wt./wt.) Pd on Al2O3 catalyst (DEGUSSA, E257H/D) 6,10,14-trimethyl -pentadeca-4,5-diene-2-one was hydrogenated to produce 6,10,14-trimethyl-pentadecane-2-one (phytone). The process parameters were as stated below:

reactant | 6,10,14-trimethyl -pentadeca-4,5-diene-2-one | CC(=C=CCC(C)=O)CCCC(CCCC(C)C)C | C18H32O
catalyst | Pd | [Pd] | Pd
product | 6,10,14-trimethyl-pentadecane-2-one | CC(CCCC(C)=O)CCCC(CCCC(C)C)C | C18H36O
